US09126980B2
Step 1: Preparation of 2-hydrazinyl-5-nitrobenzoic acid hydrochloride
To an ice cooled solution of 2-amino-5-nitrobenzoic acid (50.0 g, 274.5 mmol) in water (350 mL) was added conc. HCl (404 mL). The reaction mixture was stirred until the salt had precipitated out. A solution of sodium nitrite (29.0 g, 411.8 mmol) in water (300 mL) was slowly added at 0° C. with stirring for 15 min. This reaction mixture was slowly added to ice-cold sulfurous acid (2.5 L) followed by stirring at RT for 12 h. The reaction mixture was again cooled to 0° C. and conc. HCl was added until solid separates out. The solid was filtered, washed with cold HCl and vacuum dried to afford the title compound as a yellow colored solid 60 g (93%), which was used without further purification. Rf=0.10 (10% MeOH in DCM).

reactant | 2-amino-5-nitrobenzoic acid | 274.5 mmol, 50.0 g | NC1=C(C(=O)O)C=C(C=C1)[N+](=O)[O-] | C7H6N2O4
reactant | HCl | 404 mL | Cl | ClH
reactant | sodium nitrite | 411.8 mmol, 29.0 g | N(=O)[O-].[Na+]
solvent | water | 350 mL | O | H2O
solvent | water | 300 mL | O | H2O
product | 2-hydrazinyl-5-nitrobenzoic acid hydrochloride | 60 g, 93% | Cl.N(N)C1=C(C(=O)O)C=C(C=C1)[N+](=O)[O-] | InChI=1S/C7H7N3O4.ClH/c8-9-6-2-1-4(10(13)14)3-5(6)7(11)12;/h1-3,9H,8H2,(H,11,12);1H
